US04806685
Preparation of 1-[4-(2-dimethylamino-ethoxy)-phenyl]-3,3,3-trifluoro-1,2-bis-(4-methoxyphenyl)-propene
0.46 g (0.02 g.-atoms) of sodium are dissolved in 3.56 g (40 mmoles) of 2-dimethylamino-ethanol, 4.02 g (10 mmoles) of 1-(4-fluorophenyl)-3,3,3-trifluoro-1,2-bis-(4-methoxyphenyl)-propene are added, and the mixture is heated at 170° C. for one hour. The reaction mixture is cooled, diluted with 200 ml of ether, washed with water until neutral, dried and then evaporated. The residue is recrystallized from 45 ml of hexane. 3.43 g (73%) of the aimed compound are obtained; m.p.: 77°-79° C.

reactant | sodium | 0.46 g | [Na] | Na
reactant | 2-dimethylamino-ethanol | 40 mmoles, 3.56 g | CN(CCO)C | C4H11NO
reactant | 1-(4-fluorophenyl)-3,3,3-trifluoro-1,2-bis-(4-methoxyphenyl)-propene | 10 mmoles, 4.02 g | FC1=CC=C(C=C1)C(=C(C(F)(F)F)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C23H18F4O2
solvent | ether | 200 ml | CCOCC | C4H10O
product | 1-[4-(2-dimethylamino-ethoxy)-phenyl]-3,3,3-trifluoro-1,2-bis-(4-methoxyphenyl)-propene | 3.43 g, 73% | CN(CCOC1=CC=C(C=C1)C(=C(C(F)(F)F)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)C | C27H28F3NO3
